US05185370
3-[(4-Phenylsulfonylphenyl)methylene]-2,4-pentanedione
To a solution containing 2.1 g of 4-phenylsulfonylbenzaldehyde and 1.5 g of 2,4-pentanedione in 10 ml of 2-propanol was added 1 ml of thionyl chloride with stirring at 20° C. The solution was stirred for 1 h at 20° C. and evaporated to dryness in vacuo. The residue was crystallized from toluene, mp 102°-105° C.

reactant | 4-phenylsulfonylbenzaldehyde | 2.1 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=O)C=C1 | C13H10O3S
reactant | 2,4-pentanedione | 1.5 g | CC(CC(C)=O)=O | C5H8O2
reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
product | 3-[(4-Phenylsulfonylphenyl)methylene]-2,4-pentanedione | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C=C(C(C)=O)C(C)=O | C18H16O4S
